US07465726B2
4-[4-(1-Phenethyl-1H-pyrazol-3-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester
A mixture of 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (110 mg, 0.33 mmol) and 3-amino-1-phenethyl-1H-pyrazole (74 mg, 0.39 mmol) in 1-butanol (3 mL) was heated at 120° C. overnight, LC-MS showed the reaction was complete. The mixture was concentrated, then dissolved in MeOH-DMSO, and purified by MSDP (using water/acetonitrile/HCOOH mixtures) to give the title compound as a brown solid. LC-MS (ES, Pos.): 486 [MH+]. 1H NMR (CD3OD, 400 MHz): δ=1.49 (s, 9H), 2.54 (m, 2H), 3.16 (t, J=7.1 Hz, 2H), 3.65 (m, 2H), 4.12 (m, 2H), 4.32 (t, J=7.1 Hz, 2H), 6.27 (s, 1H), 6.48 (d, J=2.3 Hz, 1H), 6.53 (s, 1H), 7.14-7.28 (m, 5H), 7.36 (d, J=2.3 Hz, 1H), 8.21 (s, 1H).

reactant | 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.33 mmol, 110 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2Cl)N1 | C16H19ClN4O2
reactant | 3-amino-1-phenethyl-1H-pyrazole | 0.39 mmol, 74 mg | NC1=NN(C=C1)CCC1=CC=CC=C1 | C11H13N3
solvent | 1-butanol | 3 mL | C(CCC)O | C4H10O
product | 4-[4-(1-Phenethyl-1H-pyrazol-3-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2NC2=NN(C=C2)CCC2=CC=CC=C2)N1 | C27H31N7O2
